US07064215B2
N-{3-[6-(4-Methylpiperazin-1-yl)-1H-benzoimidazol-2-yl]-1H-indazol-4-yl}-benzamide
3-[6-(4-Methylpiperazin-1-yl)-1H-benzoimidazol-2-yl]-1H-indazol-4-ylamine is dissolved in CH2Cl2 and benzoyl chloride (1.1 equivalent) is added followed by diisopropylethylamine (1.1 equivalent). The resulting mixture is stirred overnight. The solution is then concentrated and the resulting residue is purified by preparatory HPLC to provide the title compound.

reactant | 3-[6-(4-Methylpiperazin-1-yl)-1H-benzoimidazol-2-yl]-1H-indazol-4-ylamine | CN1CCN(CC1)C=1C=CC2=C(NC(=N2)C2=NNC3=CC=CC(=C23)N)C1 | C19H21N7
reactant | benzoyl chloride | 1.1 equivalent | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | diisopropylethylamine | 1.1 equivalent | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-{3-[6-(4-Methylpiperazin-1-yl)-1H-benzoimidazol-2-yl]-1H-indazol-4-yl}-benzamide | CN1CCN(CC1)C=1C=CC2=C(NC(=N2)C2=NNC3=CC=CC(=C23)NC(C2=CC=CC=C2)=O)C1 | C26H25N7O
